US06787552B2
(1) 4-[3-[2-(2-Chlorophenyl)-5-isopropyl-4-oxazolyl]-1-hydroxypropyl]phenol
Lithium aluminum hydride (25 mg, 0.659 mmol) was suspended in THF (5 mL). To the suspension was added 4-[3-[2-(2-chlorophenyl)-5-isopropyl-4-oxazolyl]propionyl]-phenol (240 mg, 0.65 mmol) for 3 minutes under chilling with ice. The mixture was stirred for one hour under cooling with ice, and further stirred for one hour at room temperature. To this was added saturated aqueous ammonium chloride solution under cooling with ice. The mixture was then filtered over celite. After addition of water and ethyl acetate, the organic layer was collected, washed with water, dried over anhydrous sodium sulfate, and filtered. The ethyl acetate was distilled off under reduced pressure, to give 220 mg of the desired compound as pale yellow oil residue (yield 91%).

reactant | Lithium aluminum hydride | 0.659 mmol, 25 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[3-[2-(2-chlorophenyl)-5-isopropyl-4-oxazolyl]propionyl]-phenol | 0.65 mmol, 240 mg | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCC(=O)C1=CC=C(C=C1)O)C(C)C | C21H20ClNO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[3-[2-(2-Chlorophenyl)-5-isopropyl-4-oxazolyl]-1-hydroxypropyl]phenol | 220 mg | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCC(O)C1=CC=C(C=C1)O)C(C)C | C21H22ClNO3
